US04968792
2-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-1H-isoindole-1,3(2H)-dione
An 18.01 g sample of 1-(1,2-benzisothiazol-3-yl)piperazine (83.7 mmol), 29.5 g of N-(4-bromobutyl)phthalimide (104.6 mmol) and 36 mL of N,N-diisopropylethylamine (375.4 mmol) were added to 400 mL of dry DMF. The solution was heated at 80° C. for 18 hours, and the solvent was then removed in vacuo. The residue was dissolved in 500 mL of methylene chloride and was washed with saturated aqueous sodium bicarbonate. The combined aqueous layers were re-extracted with 2 portions of methylene chloride. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was crystallized from isopropanol with the addition of 4N HCl/isopropanol to give 23.03 g of the title compound as the hydrochloride, quarter hydrate, m.p. 253°-255° C.

reactant | 1-(1,2-benzisothiazol-3-yl)piperazine | 83.7 mmol | S1N=C(C2=C1C=CC=C2)N2CCNCC2 | C11H13N3S
reactant | N-(4-bromobutyl)phthalimide | 104.6 mmol, 29.5 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | N,N-diisopropylethylamine | 375.4 mmol, 36 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 2-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-1H-isoindole-1,3(2H)-dione | 23.03 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC=CC=C1C2=O)=O | C23H24N4O2S
